US09227978B2
tert-Butyl-4-(2-chloro-5-methoxy-[1,1′-biphenyl]-4-carbonyl)piperazine-1-carboxylate
A mixture of tert-butyl 4-(5-chloro-4-iodo-2-methoxybenzoyl)piperazine-1-carboxylate (300 mg, 0.56 mmol), phenylboronic acid (82 mg, 0.67 mmol), Pd(PPh3)4 (129 mg, 0.1 mmol), Na2CO3 (180 mg, 1.68 mmol) in 1,4-dioxane (10 mL) and water (2 mL) was stirred at reflux under argon for 16 h. The mixture was allowed to cool to room temperature and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=30:1) to afford the desired product (219 mg, 80% yield).

reactant | tert-butyl 4-(5-chloro-4-iodo-2-methoxybenzoyl)piperazine-1-carboxylate | 0.56 mmol, 300 mg | ClC=1C(=CC(=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C1)OC)I | C17H22ClIN2O4
reactant | phenylboronic acid | 0.67 mmol, 82 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 1.68 mmol, 180 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.1 mmol, 129 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl-4-(2-chloro-5-methoxy-[1,1′-biphenyl]-4-carbonyl)piperazine-1-carboxylate | 219 mg, 80% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=CC(=C(C=C1OC)C1=CC=CC=C1)Cl | C23H27ClN2O4
